US09085509B2
N,N-diisopropyl-3-(2-benzyloxy-5-methyl-phenyl)-3-phenyl propane amide (1.0 Kg,), Tetrahydrofuran (5.0 lit) and Sodium borohydride (0.43 Kg) were taken into the round bottom flask. The contents were cooled to 2±3° C. followed by drop wise addition of Borontrifluoride etherate (1.93 Kg). The reaction mixture was stirred for 10-12 hrs at 33±2° C. After completion of the reaction a solution of Conc. Hydrochloric acid (2.83 L) into Process water (2.83 L) was added to the reaction mass at 40±10° C. and stirred for 2-3 hrs at 62±3° C. The product was extracted in dichloromethane (4.0 L). Dichloromethane distilled out completely under vacuum below 50° C. This was followed by addition of Isopropyl alcohol (1.0 L) and distilled it completely to give (±) N,N-diisopropyl-3-(2-benzyloxy-5-methylphenyl)-3-phenyl propane amine.

reactant | N,N-diisopropyl-3-(2-benzyloxy-5-methyl-phenyl)-3-phenyl propane amide | 1.0 Kg | C(C)(C)N(C(CC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)OCC1=CC=CC=C1)=O)C(C)C | C29H35NO2
reactant | Sodium borohydride | 0.43 Kg | [BH4-].[Na+]
reactant | Borontrifluoride etherate | 1.93 Kg | B(F)(F)F.CCOCC
reactant | Hydrochloric acid | 2.83 L | Cl | ClH
solvent | water | 2.83 L | O | H2O
solvent | Tetrahydrofuran | O1CCCC1 | C4H8O
product | (±) N,N-diisopropyl-3-(2-benzyloxy-5-methylphenyl)-3-phenyl propane amine | C(C)(C)N(CCC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)OCC1=CC=CC=C1)C(C)C | C29H37NO
